US07642264B2
2-(3-Bromo-phenyl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.5) (0.5 g, 1.62 mmol) and commercially available 3-bromo-benzene-boronic acid (0.42 g, 2.20 mmol) according to the general procedure IVb. Obtained as a white solid (0.54 g, 78%). MS (EI) 430.0 [(M)+]; mp 98.5° C.

reactant | 2-chloro-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 1.62 mmol, 0.5 g | ClC1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H6ClF5N2
reactant | 3-bromo-benzene-boronic acid | 2.20 mmol, 0.42 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H10BrF5N2
